US07582771B2
To a suspension of the 4-{3-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid ethyl ester (250.0 g, 0.585 mol, WAY-185133) and bromodiphenylmethane (203.0 g, 0.82 mol) in acetonitrile (10.0 L) at 3° C. was added potasssium tert.butoxide (92.0 g, 0.82 mol). The reaction mixture was stirred for 7 hours at 3° C. Water (125 ml) was added to the reaction mixture and then 7.5 L of solvent was distilled off. To the concentrated reaction mixture, potassium hydroxide (82.1 g, 1.46 mol) was added followed by 2 hours of reflux. To the cooled reaction mixture at 35° C., dil. HCl was added to bring pH to 4-5. The reaction mixture suspension was then cooled to 3° C. It was then filtered, washed with water (250 mL×2). The wet cake was slurried in ethyl acetate (750 ml) at reflux for 2 h. The suspension was cooled to ambient temperature, filtered and washed with ethyl acetate (85 mL×2). Drying the product in vacuo at 50° C. provided 177.5 g (yield 54%, HPLC 93%, SLI 1.4%) of 4-{3-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid (WAY-185008). Mass spectrum (electrospray, m/e): M+H 565. 1H NMR (DMSO−d6): δ12.30 (br.s, 1H), 8.06 (m,1H), 7.86 (m, 2H), 7.45 (d, 1H, J=3 Hz), 7.34 (m, 6H), 7.21 (s, 1H), 7.12 (m, 4H), 6.77 (dd, 1H, J=9 Hz& 3 Hz), 6.45 (d,1H, J=9 Hz), 3.28 (m, 2H), 2.87 (m, 2H), 2.72 (m, 4H), 1.90 (m, 2H).

reactant | 4-{3-[2-(2-Acetylamino-ethyl)-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid ethyl ester | 0.585 mol, 250.0 g | C(C)OC(C1=CC=C(C=C1)CCCC1=C(NC2=CC=C(C=C12)Cl)CCNC(C)=O)=O | C24H27ClN2O3
reactant | bromodiphenylmethane | 0.82 mol, 203.0 g | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
reactant | tert.butoxide | 0.82 mol, 92.0 g | CC(C)([O-])C
reactant | potassium hydroxide | 1.46 mol, 82.1 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | acetonitrile | 10.0 L | C(C)#N | C2H3N
solvent | Water | 125 ml | O | H2O
product | 4-{3-[2-(2-Acetylamino-ethyl)-1-benzhydryl-5-chloro-1H-indol-3-yl]-propyl}-benzoic acid | 177.5 g, yield 54% | C(C)(=O)NCCC=1N(C2=CC=C(C=C2C1CCCC1=CC=C(C(=O)O)C=C1)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1 | C35H33ClN2O3
